US08048902B2
Synthesis of {3-Methyl-5-[4′-(2H-tetrazol-5-ylmethyl)-biphenyl-4-yl]-isoxazol-4-yl}-carbamic acid (R)-1-(2-fluoro-phenyl)-ethyl ester (Compound 63)
To a solution of [5-(4′-cyanomethyl-biphenyl-4-yl)-3-methyl-isoxazol-4-yl]-carbamic acid (R)-1-(2-fluoro-phenyl)-ethyl ester (0.200 g, 0.44 mmol) in toluene (5 mL) was added dibutyltin oxide (0.011 g, 0.04 mmol), followed by azidotrimethylsilane (0.07 mL, 0.53 mmol), and the reaction was stirred at 100° C. for 5 hours, and then stirred at room temperature overnight. The mixture was concentrated, and the residue was dissolved in EtOAc and washed with water and brine. The organic layer was dried and concentrated, and the crude material was purified by preparative HPLC to give the title compound.

reactant | [5-(4′-cyanomethyl-biphenyl-4-yl)-3-methyl-isoxazol-4-yl]-carbamic acid (R)-1-(2-fluoro-phenyl)-ethyl ester | 0.44 mmol, 0.200 g | FC1=C(C=CC=C1)[C@@H](C)OC(NC=1C(=NOC1C1=CC=C(C=C1)C1=CC=C(C=C1)CC#N)C)=O | C27H22FN3O3
reactant | dibutyltin oxide | 0.04 mmol, 0.011 g | C(CCC)[Sn](CCCC)=O
reactant | azidotrimethylsilane | 0.53 mmol, 0.07 mL | N(=[N+]=[N-])[Si](C)(C)C | C3H9N3Si
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | {3-Methyl-5-[4′-(2H-tetrazol-5-ylmethyl)-biphenyl-4-yl]-isoxazol-4-yl}-carbamic acid (R)-1-(2-fluoro-phenyl)-ethyl ester | FC1=C(C=CC=C1)[C@@H](C)OC(NC=1C(=NOC1C1=CC=C(C=C1)C1=CC=C(C=C1)CC=1N=NNN1)C)=O | C27H23FN6O3
